US04104020
(2.) 4,7-Diamino-5,6-dimethylindazole dihydrochloride monohydrate.
1.8 g. of 4,7-dinitro-5,6-dimethylindazole, prepared in accordance with the procedure of E. Nelting, Ber. 37, 2556 (1904), were hydrogenated at room temperature in 50 ml. of ethanol and 5 ml. of concentrated hydrochloric acid in the presence of 0.1 g. of catalyst (10% Pd on carbon). After the absorption of H2 ceased, the product was filtered off from the catalyst and reduced. Brown crystals were obtained. Analysis:

reactant | 4,7-dinitro-5,6-dimethylindazole | [N+](=O)([O-])C1=C2C=NNC2=C(C(=C1C)C)[N+](=O)[O-] | C9H8N4O4
reactant | hydrochloric acid | Cl | ClH
catalyst | Pd on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4,7-Diamino-5,6-dimethylindazole dihydrochloride monohydrate | O.Cl.Cl.NC1=C2C=NNC2=C(C(=C1C)C)N | InChI=1S/C9H12N4.2ClH.H2O/c1-4-5(2)8(11)9-6(7(4)10)3-12-13-9;;;/h3H,10-11H2,1-2H3,(H,12,13);2*1H;1H2
